US08877805B2
Step 3. Synthesis 5-formyl-3-furancarboxylic acid ethyl ester
5-Hydroxymethyl-3-furancarboxylic acid ethyl ester (0.34 g, 2.0 mmol) was dissolved in dichloromethane (20 mL), manganese dioxide (1.4 g, 15.9 mmol) was added, and the mixture was stirred overnight. The reaction mixture was filtered through celite, and the solvent was evaporated under reduced pressure to give the title compound (0.26 g).

reactant | 5-Hydroxymethyl-3-furancarboxylic acid ethyl ester | 2.0 mmol, 0.34 g | C(C)OC(=O)C1=COC(=C1)CO | C8H10O4
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 15.9 mmol, 1.4 g | [O-2].[O-2].[Mn+4]
product | 5-formyl-3-furancarboxylic acid ethyl ester | 0.26 g | C(C)OC(=O)C1=COC(=C1)C=O | C8H8O4
